US04552876
1,2-Bis[2H-1,4-benzoxazin-3(4H)-one-6yl]ethane
To 3.0 g (0.0123 mole) of 1,2 bis(3-amino-4-hydroxyphenyl)ethane in 25 ml of isobutyl methyl ketone was added 5.0 g (0.06 mole) sodium bicarbonate and 25 ml of water. The mixture was cooled in an ice-bath and 1.4 g (0.012 mole) of chloroacetyl chloride was added dropwise over 15 minutes. After coming to room temperature, the mixture was refluxed for 4 hours. On cooling, the solid was filtered off and washed with acetone. The precipitate was suspended in acetone, refluxed for 15 minutes and cooled. On filtration, there was obtained 2.3 g of a beige solid.

reactant | 1,2 bis(3-amino-4-hydroxyphenyl)ethane | 0.0123 mole, 3.0 g | NC=1C=C(C=CC1O)CCC1=CC(=C(C=C1)O)N | C14H16N2O2
reactant | sodium bicarbonate | 0.06 mole, 5.0 g | C([O-])(O)=O.[Na+]
reactant | water | 25 ml | O | H2O
reactant | chloroacetyl chloride | 0.012 mole, 1.4 g | ClCC(=O)Cl | C2H2Cl2O
reactant | isobutyl methyl ketone | 25 ml | CC(=O)CC(C)C | C6H12O
product | 1,2-Bis[2H-1,4-benzoxazin-3(4H)-one-6yl]ethane | 2.3 g | O1CC(NC2=C1C=CC(=C2)CCC=2C=CC1=C(NC(CO1)=O)C2)=O | C18H16N2O4
